US06271225B1
1,2,3,4-Tetrahydro-[1]benzothieno[2,3-b][1,5]benzoxazepin-12(11H)-one (1.5 g) and dichlorodicyano-p-benzoquinone (2.6 g) was dissolved in benzene (45 ml) and the mixture was stirred under reflux with heating for 12 hours. The reaction mixture was evaporated under reduced pressure to remove the solvent, and the residue was added to a mixture of chloroform/water. The organic layer was washed with water and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform) to give [1]benzothieno[2,3-b][1,5]benzoxazepin-12(11H)-one (1.25 g).

reactant | 1,2,3,4-Tetrahydro-[1]benzothieno[2,3-b][1,5]benzoxazepin-12(11H)-one | 1.5 g | C1CCCC2=C1C1=C(OC3=C(NC1=O)C=CC=C3)S2 | C15H13NO2S
reactant | dichlorodicyano-p-benzoquinone | 2.6 g | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
product | [1]benzothieno[2,3-b][1,5]benzoxazepin-12(11H)-one | 1.25 g | C1=CC=CC2=C1C1=C(OC3=C(NC1=O)C=CC=C3)S2 | C15H9NO2S
